US04748240
3-[4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl]-8,8-dimethyl-3-azabicyclo[3.2.1]octane-2,4-dione
2,2-Dimethylcyclopentane-1,3-dicarboxylic anhydride (1.68 g., 10 mmole) and 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine (2.55 g., 11 mmole) were combined in 500 ml. of xylene and refluxed for 48 hours with water removal via a Dean-Stark trap. The solvent was removed in vacuo and the residue column chromatographed on 100 g. of silica gel using a gradient elution from straight chloroform to 5% ethanol/chloroform. Concentration of the product in vacuum and recrystallization from isopropanol with addition of 4N isopropanolic HCl and acetone gave 600 mg. of the title compound as the dihydrochloride, monohydrate; m.p. 227°-229° C. (d).

reactant | 2,2-Dimethylcyclopentane-1,3-dicarboxylic anhydride | 10 mmole, 1.68 g | CC1(C2CCC1C(=O)OC2=O)C | C9H12O3
reactant | 1-(4-aminobutyl)-4-(2-pyrimidinyl)piperazine | 11 mmole, 2.55 g | NCCCCN1CCN(CC1)C1=NC=CC=N1 | C12H21N5
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | 3-[4-[4-(2-Pyrimidinyl)-1-piperazinyl]butyl]-8,8-dimethyl-3-azabicyclo[3.2.1]octane-2,4-dione | N1=C(N=CC=C1)N1CCN(CC1)CCCCN1C(C2CCC(C1=O)C2(C)C)=O | C21H31N5O2
